US04413009
N-((Methylamino)carbonyl)-N-(((methylamino)-carbonyl)oxy)(2,2-dimethyl)propionamide
(2,2-dimethyl)propiohydroxamic acid (5.9 grams), methyl isocyanate (6.5 grams), and a few drops of triethylamine were stirred in about 50 ml of methylene chloride over a period of about 48 hours. This mixture was then concentrated under vacuum leaving a colorless, oily residue. Trituration of this oil with hexane left a sticky solid which was recrystallized from a solution of methylene chloride and hexane. Subsequent recrystallization from a minimal amount of methylene chloride and toluene left the desired, N-((methylamino)carbonyl)-N-((methylamino)carbonyl)oxy)(2,2-dimethyl)propionamide as white crystals, m.p. 117°-119° C. (with slight sintering from about 116° C.).

reactant | (2,2-dimethyl)propiohydroxamic acid | 5.9 grams | CC(C(=O)NO)(C)C | C5H11NO2
reactant | methyl isocyanate | 6.5 grams | CN=C=O | C2H3NO
reactant | hexane | CCCCCC | C6H14
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
product | N-((Methylamino)carbonyl)-N-(((methylamino)-carbonyl)oxy)(2,2-dimethyl)propionamide | CNC(=O)N(C(C(C)(C)C)=O)OC(=O)NC | C9H17N3O4
